US04423046
To 5 ml. of cold 90% sulfuric acid was added 1 g. (0.004 mole) of 1-methyl-5-nitro-2-[2-(3-cyanophenyl)vinyl]imidazole, and the resulting solution was warmed on a steam bath for five minutes and then poured into ice water. The solid which separated was collected by filtration, washed with water, dried and recrystallized from ethanol to give 1-methyl-5-nitro-2-[2-(3-carbamylphenyl)vinyl]imidazole, m.p. 254°-256° C.

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 1-methyl-5-nitro-2-[2-(3-cyanophenyl)vinyl]imidazole | 0.004 mole | CN1C(=NC=C1[N+](=O)[O-])C=CC1=CC(=CC=C1)C#N | C13H10N4O2
product | 1-methyl-5-nitro-2-[2-(3-carbamylphenyl)vinyl]imidazole | CN1C(=NC=C1[N+](=O)[O-])C=CC1=CC(=CC=C1)C(N)=O | C13H12N4O3
